US07514448B2
2-Phenyl-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide (B):
4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine (216 mg, 1.0 mmol), phenylacetic acid (150 mg, 1.10 mmol) and N-(1-methanesulfonyl)benzotriazole (220 mg, 1.10 mmol) were placed in a microwave reaction vessel (Personal Chemistry, Uppsala, Sweden). THF (2 mL) was added followed by triethylamine (0.5 mL, 3.59 mmol) and the mixture heated in the sealed tube at 160° C. for 10 minutes. Upon cooling to room temperature the reaction was concentrated to 1 mL, and then acetonitrile was added (4 mL) and the product 2-Phenyl-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide precipitated, was filtered, washed with acetonitrile and dried. (150 mg, 45%). 1H NMR (500 MHz, DMSO-d6) 12.39 (1H, s), 11.83 (s,1H), 8.50 (1H, d, J=7.91 Hz), 8.27 (m,1H), 7.84 (1H, d, J=2.48 Hz), 7.36-7.15 (7H, m), 3.81 (2H, s). LC-MS Rt=2.8 min, [M+H]+=335.0, [M−H]−=333.1.

reactant | 4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-ylamine | 1.0 mmol, 216 mg | N1C=C(C=2C1=NC=CC2)C=2N=C(SC2)N | C10H8N4S
reactant | phenylacetic acid | 1.10 mmol, 150 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | triethylamine | 3.59 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Phenyl-N-[4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-thiazol-2-yl]-acetamide | C1(=CC=CC=C1)CC(=O)NC=1SC=C(N1)C1=CNC2=NC=CC=C21 | C18H14N4OS
